US04673686
N-(1-norbornyl-2-pyrrolidylmethyl)-2-methoxy-5-methylsulphonyl benzamide
69 g of 2-methoxy-5-methylsulphonylbenzoic acid (0.30 mole), 360 ml of acetone, 120 ml of water and 30.3 g of triethylamine (0.30 mole) are placed in a 1 liter flask fitted with an agitator, thermometer, a condenser and a dropping funnel. The solution is chilled to 0° C., then 40.8 g of isobutyl chloroformate (0.30 mole) is added drop by drop. The mixture is agitated for 30 minutes at room temperature, then chilled to 0° C. again, and 58.2 g of 1-norbornyl-2-aminomethyl pyrrolidine (0.30 mole) is poured in drop by drop. The reaction mixture is agitated for 3 hours at room temperature then evaporated dry. The residue is dissolved in 500 ml of water and 80 ml of hydrochloric acid (density 1.18). The solution is filtered with acticarbone 3S and the filtrate is made alkaline with 120 ml of soda lye. A thick oil is decanted off, washed with 500 ml of water then dissolved hot, at about 60° C., in 90 ml of ethyl acetate. The product crystallises. The crystals are frozen, filtered and washed in water and dried in an oven at 60° C. 72 g of product is obtained (melting point 125° C.). This is re-crystallised in 150 ml of isopropanol to give 62 g (51%) of amide melting at 132° C.

reactant | 2-methoxy-5-methylsulphonylbenzoic acid | 0.30 mole, 69 g | COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C9H10O5S
reactant | triethylamine | 0.30 mole, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.30 mole, 40.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-norbornyl-2-aminomethyl pyrrolidine | 0.30 mole, 58.2 g | C12(CCC(CC1)C2)N2C(CCC2)CN | C12H22N2
solvent | water | 120 ml | O | H2O
solvent | acetone | 360 ml | CC(=O)C | C3H6O
product | N-(1-norbornyl-2-pyrrolidylmethyl)-2-methoxy-5-methylsulphonyl benzamide | 72 g | C12(CCC(CC1)C2)N2C(CCC2)CNC(C2=C(C=CC(=C2)S(=O)(=O)C)OC)=O | C21H30N2O4S
